US07566699B2
2-Carboxy-4-methoxy-3-(2-phenylethyl)benzo[b]thiophene
To a solution of 4-methoxy-2-methoxycarbonyl-3-(2-phenylethyl)benzo[b]thiophene (1.09 g) in tetrahydrofuran (6 mL)-methanol (21 mL) was added 1 mol/L aqueous sodium hydroxide solution (21 mL), and the mixture was heated for reflux for 3.5 hours. The reaction mixture was cooled to room temperature. To the mixture was added 2 mol/L hydrochloric acid (11 mL), and the precipitated crystals were collected by filtration. The crystals were dried under reduced pressure to give the title compound (1 g).

reactant | 4-methoxy-2-methoxycarbonyl-3-(2-phenylethyl)benzo[b]thiophene | 1.09 g | COC1=CC=CC=2SC(=C(C21)CCC2=CC=CC=C2)C(=O)OC | C19H18O3S
reactant | methanol | 21 mL | CO | CH4O
reactant | sodium hydroxide | 1 mol/L, 21 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2 mol/L, 11 mL | Cl | ClH
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 2-Carboxy-4-methoxy-3-(2-phenylethyl)benzo[b]thiophene | 1 g | C(=O)(O)C1=C(C2=C(S1)C=CC=C2OC)CCC2=CC=CC=C2 | C18H16O3S
